US07994185B2
Step B: N-(3-{5-(2-Amino-4-pyrimidinyl)-2-[(2R,6S)-2,6-dimethyl-4-morpholinyl]-1,3-thiazol-4-yl}-2-fluorophenyl)-2,5-difluorobenzenesulfonamide
In a pressure vessel was placed N-(3-{5-(2-chloro-4-pyrimidinyl)-2-[(2R,6S)-2,6-dimethyl-4-morpholinyl]-1,3-thiazol-4-yl}-2-fluorophenyl)-2,5-difluorobenzenesulfonamide (0.30 g, 0.503 mmol) and NH4OH (3 mL, 77 mmol) and 1,4-dioxane (3 mL) were added. The vessel was sealed and heated at 100° C. for 18 h. The reaction was cooled, concentrated onto silica and the residue was column chromatographed to give the title compound was obtained (0.22 g, 75% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.77 (br. s., 1H), 7.82 (d, J=5.3 Hz, 1H), 7.46-7.65 (m, 3H), 7.37-7.46 (m, 1H), 7.27 (t, J=6.7 Hz, 2H), 6.54 (br. s., 2H), 5.62 (d, J=5.3 Hz, 1H), 3.77 (d, J=12.2 Hz, 2H), 3.60-3.73 (m, 2H), 2.73 (t, J=11.6 Hz, 2H), 1.14 (d, J=6.0 Hz, 6H). m/z (ES+): 577 [M+H]+.

reactant | N-(3-{5-(2-chloro-4-pyrimidinyl)-2-[(2R,6S)-2,6-dimethyl-4-morpholinyl]-1,3-thiazol-4-yl}-2-fluorophenyl)-2,5-difluorobenzenesulfonamide | 0.503 mmol, 0.30 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1C[C@H](O[C@H](C1)C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C25H21ClF3N5O3S2
reactant | NH4OH | 77 mmol, 3 mL | [NH4+].[OH-]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | N-(3-{5-(2-Amino-4-pyrimidinyl)-2-[(2R,6S)-2,6-dimethyl-4-morpholinyl]-1,3-thiazol-4-yl}-2-fluorophenyl)-2,5-difluorobenzenesulfonamide | 75% yield | NC1=NC=CC(=N1)C1=C(N=C(S1)N1C[C@H](O[C@H](C1)C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C25H23F3N6O3S2
